US05492964
To a solution of rhodium(III) chloride trihydrate (1.3 mg, 0.005 mmol), copper(II) nitrate hemipentahydrate (2.90 mg, 0.0125 mmol) and aluminum(III) nitrate nonahydrate (0.188 g, 0.50 mmol) in a mixture of THF (2.5 mL) and water (0.5 mL) is added 5-decyne (69 mg, 0.50 mmol). The solution is stirred for 10 minutes and then triethoxysilone (0.21 g, 1.25 mmol) is added. The system is closed and stirred at room temperature for 7 hours. The volatiles are removed in vacuo. A mixture of hexane (5 mL) and ether (1 mL) is added. The solution is dried over magnesium sulfate and filtered through a one inch plug of silica gel. The substrate is eluted with hexane/ether (5:1). The solvent is removed in vacuo to give Z-5-decene.

reactant | aluminum(III) nitrate nonahydrate | 0.50 mmol, 0.188 g | O.O.O.O.O.O.O.O.O.[N+](=O)([O-])[O-].[Al+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | 5-decyne | 0.50 mmol, 69 mg | CCCCC#CCCCC | C10H18
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
catalyst | rhodium(III) chloride trihydrate | 0.005 mmol, 1.3 mg | O.O.O.[Rh](Cl)(Cl)Cl
catalyst | copper(II) nitrate hemipentahydrate | 0.0125 mmol, 2.90 mg | O.[N+](=O)([O-])[O-].[Cu+2].O.O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | Z-5-decene | CCCC\C=C/CCCC | C10H20
